US06380210B1
A solution 1.25 g (2.4 mmole) of (2,5-difluorophenyl)-N-propyl-N-({1-propyl-5-[(1,1,2,2-tetramethyl-1-silapropoxy)methyl]benzimidazol-2-yl}methyl)carboxamide in 20 mL of THF is treated at room temperature with 3 mL of 1M tetrabutylammonium fluoride for 1 hr. The reaction solution is diluted with 20 mL of sat NaHCO3 and extracted with 3×100 mL of dichloromethane. The organic extracts are dried over anhydrous Na2SO4 and the solvent removed in vacuo to afford 0.96 g (99%) of (2,5-difluorophenyl)-N-{[5-(hydroxymethyl)-1-propylbenzimidazol-2-yl]methyl}-N-propylcarboxamide.

reactant | (2,5-difluorophenyl)-N-propyl-N-({1-propyl-5-[(1,1,2,2-tetramethyl-1-silapropoxy)methyl]benzimidazol-2-yl}methyl)carboxamide | 2.4 mmole, 1.25 g | FC1=C(C=C(C=C1)F)C(=O)N(CC1=NC2=C(N1CCC)C=CC(=C2)CO[Si](C(C)(C)C)(C)C)CCC | C28H39F2N3O2Si
reactant | tetrabutylammonium fluoride | 1M, 3 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
product | (2,5-difluorophenyl)-N-{[5-(hydroxymethyl)-1-propylbenzimidazol-2-yl]methyl}-N-propylcarboxamide | 0.96 g, 99% | FC1=C(C=C(C=C1)F)C(=O)N(CCC)CC1=NC2=C(N1CCC)C=CC(=C2)CO | C22H25F2N3O2
